US08470841B2
59e N—{(S)-2-[4-(4-Isopropoxyphenoxy)phenoxy]-1-methylethyl}acetamide
N—{(S)-2-[4-(4-Hydroxyphenoxy)phenoxy]-1-methylethyl}acetamide (139 mg, 0.46 mmol) was reacted with 2-iodopropane in analogy to example 10b. Yield: 51 mg (32%), M+H+: 344.23.

reactant | N—{(S)-2-[4-(4-Hydroxyphenoxy)phenoxy]-1-methylethyl}acetamide | 0.46 mmol, 139 mg | OC1=CC=C(OC2=CC=C(OC[C@H](C)NC(C)=O)C=C2)C=C1 | C17H19NO4
reactant | 2-iodopropane | IC(C)C | C3H7I
product | N—{(S)-2-[4-(4-Isopropoxyphenoxy)phenoxy]-1-methylethyl}acetamide | C(C)(C)OC1=CC=C(OC2=CC=C(OC[C@H](C)NC(C)=O)C=C2)C=C1 | C20H25NO4
